### PR TITLE
Turn some more asserts into lemmas in the Muddy Children example

### PR DESCRIPTION
**Pull request by wkolowski**
Besides the titular changes, there are also small improvements in a few unrelaed `assert`s.

### CODE REVIEW

File: theories/Examples/Tutorial/MuddyChildrenRounds.v [hunk 1]
```diff
@@ -1078,6 +1077,16 @@ Proof.
...
 
+Lemma st_obs_finite_valid_trace_from_to :
+  forall (s1 s2 : composite_state MCVLSM) (tr : list transition_item) (i : index),
+    finite_valid_trace_from_to MC_composite_vlsm s1 s2 tr ->
+      st_obs (s1 i) ≡ st_obs (s2 i).
+Proof.
+  intros.
+  apply MC_in_futures_preserves_obs_equiv.
+  by exists tr.
+Qed.
```
Comment (palmskog) [inline theories/Examples/Tutorial/MuddyChildrenRounds.v:1088]:
```suggestion
Proof. by intros; apply MC_in_futures_preserves_obs_equiv; exists tr. Qed.
```
Seems like this is so short there is no need to use multiple lines.

**Review by palmskog — APPROVED** [review]
Fine by me, but I think we are reaching diminishing returns here.

File: theories/Examples/Tutorial/MuddyChildrenRounds.v (hunk 1 above)
Comment (wkolowski) [reply theories/Examples/Tutorial/MuddyChildrenRounds.v:1088]: Changed.

**Comment by wkolowski** [comment]
@palmskog Yes, I think there isn't much more that can be done with the Muddy Children example. I will open one more tiny PR to use constructors for records both in code and for printing and then switch to other tasks.
